US07964613B2
tert-Butyl 2-(Azetidin-1-yl)acetate
A solution of azetidine hydrochloride (1 g, Aldrich) in a mixture of tetrahydrofuran (20 ml) and water (5 ml) was added with 2 N aqueous sodium hydroxide (10.7 ml) at 0° C., and then gradually added with tert-butyl bromoacetate (1.052 ml), and the mixture was stirred at the same temperature for 10 minutes, and further stirred at room temperature for 45 minutes. The reaction mixture was added with water and ethyl acetate, and the organic layer was separated. The aqueous layer was extracted three times with ethyl acetate, the combined organic layer was washed three times with saturated brine, and the solvent was evaporated under reduced pressure to obtain the title compound (688 mg).

reactant | azetidine hydrochloride | 1 g | Cl.N1CCC1
reactant | sodium hydroxide | 2 N, 10.7 ml | [OH-].[Na+]
reactant | tert-butyl bromoacetate | 1.052 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 5 ml | O | H2O
product | tert-Butyl 2-(Azetidin-1-yl)acetate | 688 mg | N1(CCC1)CC(=O)OC(C)(C)C | C9H17NO2
